US07612212B2
To a mixture of amino-(4-bromo-phenyl)-acetic acid (543 mg, 2.4 mmol), triethylamine (822 μL, 5.9 mmol), 4-(dimethylamino)pyridine (29 mg, 0.24 mmol) in dioxane/water (2:1, 12 mL) was added di-tert-butyl dicarbonate (1.1 g, 5.0 mmol) and the resulting solution was allowed to stir for 3 hours. The reaction was diluted with ethyl acetate (50 ml), washed with 0.2 N aqueous hydrochloric acid (10 mL), water (20 mL), brine and the organic layer was dried over sodium sulfate and filtered. The solvent was removed in vacuo to give (4-bromo-phenyl)-tert-butoxycarbonylamino-acetic acid (780 mg, 100%)

reactant | amino-(4-bromo-phenyl)-acetic acid | 2.4 mmol, 543 mg | NC(C(=O)O)C1=CC=C(C=C1)Br | C8H8BrNO2
reactant | triethylamine | 5.9 mmol, 822 μL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 5.0 mmol, 1.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-(dimethylamino)pyridine | 0.24 mmol, 29 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dioxane water | 12 mL | O1CCOCC1.O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (4-bromo-phenyl)-tert-butoxycarbonylamino-acetic acid | 780 mg, 100% | BrC1=CC=C(C=C1)C(C(=O)O)NC(=O)OC(C)(C)C | C13H16BrNO4
